US08017555B2
A mixture of 2-bromo-1-(4-chlorophenyl)ethanone (1.0 eq.) and NaN(CHO)2 (1.1 eq.) in acetonitrile (1.5 mL per mmol) was heated to reflux for 4 h at 105° C. ext. temperature. The formed sodium bromide was removed by filtration and the filtrate concentrated in vacuo. The residue was dissolved in ethanol (2.5 mL per mmol) and conc. aq. hydrochloric acid (0.9 mL per mmol) added at ambient temperature. After stirring for 72 h at room temperature the solids were filtered off and washed with ethanol (1×0.5 mL per mmol). Drying of the solids afforded 2-amino-1-(4-chlorophenyl)ethanone hydrochloride in ca. 50% yield that was used in the next step without purification.

reactant | 2-bromo-1-(4-chlorophenyl)ethanone | 1.0 eq. | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-amino-1-(4-chlorophenyl)ethanone hydrochloride | ca. 50% yield | Cl.NCC(=O)C1=CC=C(C=C1)Cl | InChI=1S/C8H8ClNO.ClH/c9-7-3-1-6(2-4-7)8(11)5-10;/h1-4H,5,10H2;1H
